US05703071
A solution of 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one (1.26 g, 6.49 mmol) in dimethylformamide (5 ml) was stirred, and 60% oily sodium hydride (285 mg, 7.13 mmol) was added in small portions to the solution. Subsequently, butyl iodide (1.1 ml, 9.6 mmol) was added and the reaction solution was heated at 80° C. for 4 hours. The solution was diluted with dichloromethane, washed with water and dried over sodium sulfate. Solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (1:1)] to give 612 mg of 2-butoxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one as a yellowish brown oil (yield, 38%).

reactant | 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 6.49 mmol, 1.26 g | OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C11H14O3
reactant | sodium hydride | 7.13 mmol, 285 mg | [H-].[Na+]
reactant | butyl iodide | 9.6 mmol, 1.1 ml | C(CCC)I | C4H9I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-butoxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 612 mg | C(CCC)OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C15H22O3
